US04879388
1-[bis(isodecyloxycarbonyl)methyl]-1,2,4-triazole (51.8 g, 86% strength) was stirred and boiled under reflux at 78° with carbon tetrachloride (100 cm3) whilst bromine (16.0g) was added slowly beneath the liquid surface during 30 minutes. Stirring and heating at 78°-80° was continued for a further period of 2 hours, the extent of bromination being followed by disappearance of the resonance due to the methine proton at delta=5.8 ppm from tetramethylsilane in the nmr spectrum. The solution was then cooled, washed with dilute aqueous sodium sulphite solution and with water, and the solvent was distilled yielding 57.2 g of 1-[1',1'-bis(isodecyloxycarbonyl)-1'-bromomethyl]-1,2,4-triazole of strength 76% as measured by non-aqueous titration with perchloric acid. This compound was evaluated as an extractant for copper using the procedure of Example 1 and the results are presented in Table 1.

reactant | 1-[bis(isodecyloxycarbonyl)methyl]-1,2,4-triazole | 51.8 g | C(CCCCCCC(C)C)OC(=O)C(N1N=CN=C1)C(=O)OCCCCCCCC(C)C | C25H45N3O4
reactant | bromine | 16.0g | BrBr | Br2
solvent | carbon tetrachloride | 100 cm3 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-[1',1'-bis(isodecyloxycarbonyl)-1'-bromomethyl]-1,2,4-triazole | 57.2 g | C(CCCCCCC(C)C)OC(=O)C(Br)(C(=O)OCCCCCCCC(C)C)N1N=CN=C1 | C25H44BrN3O4
